US04829063
4.5 g (0.014 mol) of 1-(2,6-dimethylmorpholin-4-yl)-2-methyl-3-(decahydronaphth-2-yl)-propane and 2.58 g (0.014 mol) of saccharine are dissolved together in 80 ml of acetone and the solution is stirred at room temperature for 15 minutes. After the solvent has been evaporated off, 7 g (100% of theory) of 1-(2,6-dimethylmorpholin-4-yl)-2-methyl-3-(decahydronaphth-2-yl)-propane saccharine salt are obtained as an amorphous solid.

reactant | 1-(2,6-dimethylmorpholin-4-yl)-2-methyl-3-(decahydronaphth-2-yl)-propane | 0.014 mol, 4.5 g | CC1CN(CC(O1)C)CC(CC1CC2CCCCC2CC1)C | C20H37NO
reactant | saccharine | 0.014 mol, 2.58 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 1-(2,6-dimethylmorpholin-4-yl)-2-methyl-3-(decahydronaphth-2-yl)-propane saccharine salt | 7 g, 100% | S1(=O)(=O)NC(=O)C2=CC=CC=C12.CC1CN(CC(O1)C)CC(CC1CC2CCCCC2CC1)C | InChI=1S/C20H37NO.C7H5NO3S/c1-15(12-21-13-16(2)22-17(3)14-21)10-18-8-9-19-6-4-5-7-20(19)11-18;9-7-5-3-1-2-4-6(5)12(10,11)8-7/h15-20H,4-14H2,1-3H3;1-4H,(H,8,9)
